US06399644B1
Synthesis of 7-bromo-2-methyl-1,2-benzisothiazol-3-one 1,1-dioxide
To a solution of 7-bromo-2-methyl-2,3-dihydro-1,2-benzisothiazol-3-ol 1,1-dioxide(0.34 g, 1.2 mmol) in methylene chloride (20 mL), prepared according to the method described in Example 3 was added PDC (1.4 g, 3.6 mmol). The reaction mixture is stirred at ambient temperature over 6 h, filtered through a pad of Celite and concentrated under the reduced pressure. The residue was purified by flash chromatography (ethyl acetate/hexane, 1:4) to afford the desired product 7-bromo-2-methyl-1,2-benzisothiazol-3-one 1,1-dioxide (0.24 g, 72%). 1H NMR (CDCl3): δ3.9 (s, 3H), 7.71 (t, 1H), 7.99 (d, 1H), 8.03 (d, 1H).

reactant | 7-bromo-2-methyl-2,3-dihydro-1,2-benzisothiazol-3-ol 1,1-dioxide | 1.2 mmol, 0.34 g | BrC1=CC=CC=2C(N(S(C21)(=O)=O)C)O | C8H8BrNO3S
reactant | PDC | 3.6 mmol, 1.4 g | C1=CC=[NH+]C=C1.C1=CC=[NH+]C=C1.[O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 7-bromo-2-methyl-1,2-benzisothiazol-3-one 1,1-dioxide | 0.24 g, 72% | BrC1=CC=CC=2C(N(S(C21)(=O)=O)C)=O | C8H6BrNO3S
